US06518260B1
7.2. Ethyl 3-[1,1′-biphenyl]-4-yl-2-[[hydroxy[1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate
The process is performed according to the operating conditions in 5.4., starting with 1.7 g (3.32 mmol) of ethyl 3-(4-bromophenyl)-2-[[hydroxy[1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate and 4.05 g (3.32 mmol) of phenylboronic acid. 1.65 g of product are recovered (yield=97.6%).

reactant | ethyl 3-(4-bromophenyl)-2-[[hydroxy[1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate | 3.32 mmol, 1.7 g | BrC1=CC=C(C=C1)CC(C(=O)OCC)CP(=O)(C(C)NC(=O)OCC1=CC=CC=C1)O | C22H27BrNO6P
reactant | phenylboronic acid | 3.32 mmol, 4.05 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | Ethyl 3-[1,1′-biphenyl]-4-yl-2-[[hydroxy[1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]propanoate | yield=97.6% | C1(=CC=C(C=C1)CC(C(=O)OCC)CP(=O)(C(C)NC(=O)OCC1=CC=CC=C1)O)C1=CC=CC=C1 | C28H32NO6P
